US05859014
1-Bromo-3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propane
A mixture of 4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine (2.37 g, 9.1 mmol), 1-bromo-3-chloropropane (14.34 g, 9 mL, 91.1 mmol), potassium carbonate (1.88 g, 13.6 mmol) and acetonitrile (40 mL) was heated 16 hours at reflux under argon. The reaction mixture was allowed to cool to 25° C., then filtered and concentrated in vacuo. The residue was further concentrated at 60° C. in vacuo to remove excess 1-bromo-3-chloropropane. The residue was purified by flash chromatography on silica gel eluting with hexane/ethyl acetate (1:1) to give a mixture of 1-chloro- and 1-bromo-3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propane (1.4 g).

reactant | 4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | 9.1 mmol, 2.37 g | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 1-bromo-3-chloropropane | 91.1 mmol, 9 mL, 14.34 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 13.6 mmol, 1.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-Bromo-3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propane | BrCCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F | C15H20BrF3N2O
